US04618617
A mixture of 2.14 g of 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole, 2.54 g of N,N-diethyl-1-piperazine carboxamide and 15 ml of dry DMF was heated at 100° C. for 2 hours. After cooling, the reaction mixture was poured into ice-water and extracted with diethyl ether. The organic phase was washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed over silica gel using chloroform-methanol (50:1, v/v) to yield 2.43 g of 3-[4-(N,N-diethylcarbamoyl)piperazinomethyl]-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole as a light brown oil. To a solution of this product in ethanol was added equal mole of ethanolic hydrogen chloride and the mixture was concentrated to dryness under reduced pressure. Recrystallization of the residue from ethanol-diethyl ether gave colorless crystals, m.p. 181°-182° C.

reactant | 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 2.14 g | ClCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C17H14ClFN2O
reactant | N,N-diethyl-1-piperazine carboxamide | 2.54 g | C(C)N(C(=O)N1CCNCC1)CC | C9H19N3O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-[4-(N,N-diethylcarbamoyl)piperazinomethyl]-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 2.43 g | C(C)N(C(=O)N1CCN(CC1)CC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C)CC | C26H32FN5O2
